US08426402B2
Methyl 4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylate
In a hydrogenation bottle was added methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate (1.0 g, 3.27 mmol), 20 ml of THF, 305 mg of 10% Pd/C (50% wet) and 0.25 ml of HCl (conc.). After evacuation under vacuum the bottle wasplaced under 50 psi hydrogen and shaken for 4 hours. The mixture was filtered through celite, evaporated to dryness without further purification. To the dried mixture was added 4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxylic acid (1.15 g, 3.16 mmol), 10 ml of DMA, EDC (2.0 g, 10.4 mmol) and DIPEA (0.70 ml, 4.02 mmol). The mixture was stirred under Ar overnight, concentrated, diluted with Hexane/EtAc (1:1, 10 ml) and water 10 ml to form precipitates. The precipitates were filtered, washed 1M NaH2PO4, 1 M NaHCO3 and water, dried over P2O5 with vacuum to afford 1.61 g (82%) of the title product. 1H NMR (DMF-d7) 10.29 (s, 1H), 10.20 (s, 1H), 10.12 (s, 1H), 9.08 (s, 1H), 7.58 (s, 1H), 7.47 (d, 1H, J=1.7 Hz), 7.26 (d, 1H, J=1.5 Hz), 7.15 (d, 1H, J=1.5 Hz), 6.98 (s, 1H), 6.91 (d, 1H, J=1.8 Hz), 6.86 (s, 1H), 3.97 (s, 3H), 3.82 (s, 3H), 3.73 (s, 3H), 3.56 (s, 3H), 1.45 (s, 9H); 13C NMR 162.16, 160.05, 159.90, 157.20, 154.31, 137.88, 135.35, 124.56, 124.39, 124.24, 123.09, 120.09, 119.82, 115.32, 105.58, 102.27, 79.31, 51.51, 38.13, 36.01, 35.80, 35.08, 28.79; MS m/z+ 644.2 (M+Na).

reactant | methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate | 3.27 mmol, 1.0 g | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C(=O)OC | C13H14N4O5
reactant | HCl | 0.25 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | 4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxylic acid | 3.16 mmol, 1.15 g | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)NC=1N=C(N(C1)C)C(=O)O | C16H21N5O5
reactant | EDC | 10.4 mmol, 2.0 g
reactant | DIPEA | 4.02 mmol, 0.70 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd/C | 305 mg | [Pd] | Pd
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Methyl 4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylate | 1.61 g, 82% | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)NC=1N=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)OC | C29H35N9O7
